US07495004B2
Ethyl 1-[7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperidine-3-carboxylate
A solution of 8-bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione (6.0 g, 0.015 mol) in 30 mL of DMSO was treated with (+/−)-ethyl piperidine-3-carboxylate (11.7 g, 0.075 mol) and heated at 100° C. for 15 h. The reaction was cooled to room temperature and treated with H2O and CH2Cl2. The layers were separated, and the aqueous layer was extracted with CH2Cl2 (2×). The combined organic layers were washed with H2O, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, Merck 20×20 cm silica gel 60 F254) eluting with 7:3/hexanes:EtOAc to give 6.33 g (88% yield) of the title compound: 1H NMR (CDCl3, 400 MHz) δ 7.20 (dt, 2H, J=8.1, 5.7), 7.14 (t, 1H, J=7.6), 6.98-6.90 (m, 1H), 5.57 (AB quartet, 2H, J=15.7, 5.7), 4.18-4.00 (m, 2H), 3.51 (s, 3H), 3.42 (dd, 1H, J=12.6, 4.0), 3.30 (s, 3H), 3.18 (br d, 1H), 3.06 (dd, 1H, J=12.4, 10.0), 2.91-2.83 (m, 1H), 2.52-2.41 (m, 1H), 2.03-1.92 (m, 1H), 1.75-1.66 (m, 1H), 1.63-1.40 (m, 2H), 1.21 (t, 3H, J=7.1); LRMS (ESI) m/z 478 (M+H+); TLC (hexanes:EtOAc/7:3) Rf=0.20.

reactant | 8-bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 0.015 mol, 6.0 g | BrC1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C14H11BrClFN4O2
reactant | (+/−)-ethyl piperidine-3-carboxylate | 0.075 mol, 11.7 g | N1CC(CCC1)C(=O)OCC | C8H15NO2
reactant | H2O | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 1-[7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperidine-3-carboxylate | 6.33 g, 88% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)N2CC(CCC2)C(=O)OCC)C(=CC=C1)F | C22H25ClFN5O4
